US07951815B2
1,3-(S)-dibenzyl-8-(3-methoxybenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one (404 mg, 0.9 mmol) was dissolved in ethyl methyl ketone (3.2 mL), and water (9 μL) and TMSCl (120 μL) were added and the mixture was stirred overnight. The solid matter was isolated by filtration, washed with ether, and dried in vacuo. The product 1,3-(S)-dibenzyl-8-(3-methoxybenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 358 mg (82%).

reactant | 1,3-(S)-dibenzyl-8-(3-methoxybenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one | 0.9 mmol, 404 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC(=CC=C2)OC)=O)CC2=CC=CC=C2)=O | C29H31N3O3
reactant | water | 9 μL | O | H2O
reactant | TMSCl | 120 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 3.2 mL | CC(=O)CC | C4H8O
product | 1,3-(S)-dibenzyl-8-(3-methoxybenzoyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=CC(=CC=C2)OC)=O)CC2=CC=CC=C2)=O | InChI=1S/C29H31N3O3.ClH/c1-35-25-14-8-13-24(20-25)27(33)31-17-15-29(16-18-31)30-26(19-22-9-4-2-5-10-22)28(34)32(29)21-23-11-6-3-7-12-23;/h2-14,20,26,30H,15-19,21H2,1H3;1H/t26-;/m0./s1
